US07585881B2
4-(5-{1-[5-(3-chlorophenyl)-1,2,4-oxadiazol-3-yl]-1-methylethoxy}-4-methyl-4H-1,2,4-triazol-3-yl)pyridine
To a solution of diisopropylamine (55.0 ml, 0.39 mmol) in THF (3 ml) at 0° C. was added nBuLi (2.5M, hex., 135 ml) slowly. After 20 minutes the mixture was cooled to −78° C. and (−)-4-(5-{(1R)-1-[5-(3-chlorophenyl)-1,2,4-oxadiazol-3-yl]ethoxy}-4-methyl-4H-1,2,4-triazol-3-yl)pyridine (107 mg, 0.28 mmol) in THF (2 ml) was added. The resulting mixture was stirred for 45 minutes before CH3I (22 ml, 0.34 mmol) was added and the reaction mixture was stirred for 1 h at r.t. Sat. NH4Cl solution was added and the mixture was extracted with EA. The organic phase was washed with H2O and brine, dried and evaporated. Purification of the residue by silica gel chromatography using CHCl3:MeOH 50:1 followed by prep. HPLC gave the title compound (22 mg, 20%). 1H-NMR: 2.11 (s, 6 H) 3.63 (s, 3 H) 7.45 (d, 1 H) 7.52-7.57 (m, 1 H) 7.59 (d, 2 H) 7.98 (d, 1 H) 8.09 (s, 1 H) 8.72 (d, 2 H)

reactant | diisopropylamine | 0.39 mmol, 55.0 ml | C(C)(C)NC(C)C | C6H15N
reactant | nBuLi | 2.5M, 135 ml | [Li]CCCC
reactant | (−)-4-(5-{(1R)-1-[5-(3-chlorophenyl)-1,2,4-oxadiazol-3-yl]ethoxy}-4-methyl-4H-1,2,4-triazol-3-yl)pyridine | 0.28 mmol, 107 mg | ClC=1C=C(C=CC1)C1=NC(=NO1)[C@@H](C)OC=1N(C(=NN1)C1=CC=NC=C1)C | C18H15ClN6O2
reactant | CH3I | 0.34 mmol, 22 ml | CI | CH3I
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 4-(5-{1-[5-(3-chlorophenyl)-1,2,4-oxadiazol-3-yl]-1-methylethoxy}-4-methyl-4H-1,2,4-triazol-3-yl)pyridine | 22 mg, 20% | ClC=1C=C(C=CC1)C1=NC(=NO1)C(C)(OC=1N(C(=NN1)C1=CC=NC=C1)C)C | C19H17ClN6O2
